US08492559B2
Stage 2: Ethyl 2-(6-amino-1H-indol-1-yl)acetate
A mixture of ethyl 2-(6-nitro-1H-indol-1-yl)acetate (20.96 mmol, 1 equiv.), iron powder (83.8 mmol, 4 equiv.), ammonium chloride (83.87 mmol, 1 equiv.) and ethanol/water (2.5:1, 56 ml) was stirred for 2 h at boiling temperature. The reaction mixture was cooled to 25° C. and filtered over celite. The filtrate was diluted with ethyl acetate and water, the phases were separated, and the organic phase was washed with sodium hydrogen carbonate solution and sat. NaCl solution, dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by column chromatography (15% ethyl acetate in hexane). Yield: 55%

reactant | ethyl 2-(6-nitro-1H-indol-1-yl)acetate | 20.96 mmol, 1 equiv. | [N+](=O)([O-])C1=CC=C2C=CN(C2=C1)CC(=O)OCC | C12H12N2O4
reactant | ammonium chloride | 83.87 mmol, 1 equiv. | [Cl-].[NH4+]
catalyst | iron | 83.8 mmol, 4 equiv. | [Fe] | Fe
solvent | ethanol water | 56 ml | C(C)O.O
product | Ethyl 2-(6-amino-1H-indol-1-yl)acetate | Yield: 55% | NC1=CC=C2C=CN(C2=C1)CC(=O)OCC | C12H14N2O2
